US04032676
N-(2,3,4,5,6-pentahydroxy-hexyl)-DL-methionine
The product was made from D-glucose and DL-methionine using Raney nickel or palladium/activated carbon (10%) as a catalyst. The compound had a melting point of 245° C. (decomposition) and an RF -value of 0.71 (determined as indicated in Example K).

reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | DL-methionine | NC(CCSC)C(=O)O | C5H11NO2S
catalyst | Raney nickel | [Ni] | Ni
catalyst | palladium | [Pd] | Pd
product | N-(2,3,4,5,6-pentahydroxy-hexyl)-DL-methionine | OC(CNC(CCSC)C(=O)O)C(C(C(CO)O)O)O | C11H23NO7S
